US09353108B2
C) 2-Cyclopropyl-6-ethoxy-4-formylphenyl trifluoromethanesulfonate
4-Dimethylaminopyridine (0.237 g) and N-phenyltrifluoromethanesulfonimide (9.70 g) were added to a mixture of 3-cyclopropyl-5-ethoxy-4-hydroxybenzaldehyde (4.00 g), N,N′-diisopropylethylamine (6.77 mL), and THF (100 mL), and the resultant mixture was stirred at 70° C. for 3 hours. 1 M hydrochloric acid was added to the reaction mixture, followed by extraction with ethyl acetate. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (6.24 g).

reactant | N-phenyltrifluoromethanesulfonimide | 9.70 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 3-cyclopropyl-5-ethoxy-4-hydroxybenzaldehyde | 4.00 g | C1(CC1)C=1C=C(C=O)C=C(C1O)OCC | C12H14O3
reactant | N,N′-diisopropylethylamine | 6.77 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | hydrochloric acid | 1 M | Cl | ClH
catalyst | 4-Dimethylaminopyridine | 0.237 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Cyclopropyl-6-ethoxy-4-formylphenyl trifluoromethanesulfonate | 6.24 g | FC(S(=O)(=O)OC1=C(C=C(C=C1OCC)C=O)C1CC1)(F)F | C13H13F3O5S
